US07414134B2
Step (ii) Synthesis of (S)-methyl 4-hydroxy-3,4-dihydro-2H-chromene-7-carboxylate (4)
A solution of (1S,2S)-TsDPEN (1.709 g, 4.85 mmol) in isopropanol (5 mL) was added to a 35 mL schlenk-flask and cooled to 0° C. The solution was degassed by three cycles of evacuation/nitrogen refill. Then, [RuCl2(η6-p-cymene)]2 (1.313 g, 2.425 mmol) was added, followed by TEA (1.352 mL, 9.699 mmol). The reaction mixture was heated to 80° C. under N2 for 1 h and cooled. The iso-propanol was removed under a stream of nitrogen, and dissolved in 10 mL acetonitrile. The catalyst solution was added to nitrogen filled 1 L 3-N flask equipped with overhead stirring. 7-Carbomethoxy-4-chromanone (100 g, 485 mmol) and 400 mL acetonitrile was added to the flask, followed by 5:2 formic acid-TEA (50 mL). The reaction mixture was incubated for 24 h at 30° C. An additional portion of formic acid-TEA (5 mL) was added and the reaction mixture stirred for an additional 24 h. The solution was concentrated completely by rotary evaporation. The product was purified by crystallization from 200 mL 2-propanol and 100 mL hexanes. The solids were collected by filtration and washed with cold 2:1 iPrOH-Hex. Final drying of the solids afforded the title compound. MS (m/z): 208.9 (m+H). Chiral HPLC showed the enantiomeric purity to be greater than 98%, when compared to racemic material.

reactant | (1S,2S)-TsDPEN | 4.85 mmol, 1.709 g | CC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C2=CC=CC=C2)[C@H](C3=CC=CC=C3)N | C21H22N2O2S
reactant | 7-Carbomethoxy-4-chromanone | 485 mmol, 100 g | C(=O)(OC)C1=CC=C2C(CCOC2=C1)=O | C11H10O4
reactant | acetonitrile | 400 mL | C(C)#N | C2H3N
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | (S)-methyl 4-hydroxy-3,4-dihydro-2H-chromene-7-carboxylate | O[C@H]1CCOC2=CC(=CC=C12)C(=O)OC | C11H12O4
